US04006145
A solution of 150 g of potassium hydroxide in 850 ml of water is treated with 47.5 ml of thiophenol at 55° C under a nitrogen atmosphere. The mixture is stirred for 15 minutes and subsequently treated with 1.9 g of copper powder and 207 g of 5-fluoro-2-iodo-benzoic acid. The mixture is heated under reflux for 7 hours, filtered while hot, cooled and acidified with concentrated hydrochloric acid. The precipitated product is filtered off, washed with water and dried. There is obtained 3-fluoro-6-(phenylthio)-benzoic acid which melts at 146°-148° C.

reactant | potassium hydroxide | 150 g | [OH-].[K+]
reactant | thiophenol | 47.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 5-fluoro-2-iodo-benzoic acid | 207 g | FC=1C=CC(=C(C(=O)O)C1)I | C7H4FIO2
solvent | water | 850 ml | O | H2O
catalyst | copper | 1.9 g | [Cu] | Cu
product | 3-fluoro-6-(phenylthio)-benzoic acid | FC=1C=C(C(=O)O)C(=CC1)SC1=CC=CC=C1 | C13H9FO2S
